US05607956
1-(2,4-Dimethyl-5-thiazolyl)-1-(1-methyl-2-pyrrolyl)ethanol
n-Butyllithium (2.5M solution in hexanes, 20 ml) in dry diethyl ether was cooled to -70° C. under dry nitrogen and TMEDA (5.8 g) was added. After 5 minutes, 1-methylpyrrole (5.4 g) in diethyl ether was added dropwise. After a further 15 minutes, 5-acetyl-2,4-dimethylthiazole (4.5 ml) was added dropwise. After 30 minutes the mixture was allowed to warm to room temperature and was then worked up in the usual fashion.

reactant | n-Butyllithium | 2.5M, 20 ml | C(CCC)[Li]
reactant | TMEDA | 5.8 g | CN(C)CCN(C)C | C6H16N2
reactant | 1-methylpyrrole | 5.4 g | CN1C=CC=C1 | C5H7N
reactant | 5-acetyl-2,4-dimethylthiazole | 4.5 ml | C(C)(=O)C1=C(N=C(S1)C)C | C7H9NOS
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(2,4-Dimethyl-5-thiazolyl)-1-(1-methyl-2-pyrrolyl)ethanol | CC=1SC(=C(N1)C)C(C)(O)C=1N(C=CC1)C | C12H16N2OS
